US07906528B2
A mixture of 5-(2,6-diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine (700 mg, 2.8 mmol), 1-iodo-4-isopropyl-benzene (2.0 g, 8.1 mmol), CuI (1.0 g, 5.3 mmol), cesium carbonate (1.8 g, 5.5 mmol) and ethylenediamine (336 mg, 5.6 mmol) in dioxane (10 mL) is heated at 60° C. overnight. The reaction mixture is cooled, diluted with EtOAc, and filtered through Celite. The filtrate is concentrated under reduced pressure. The residue is purified by chromatography on silica gel (Hexane/EtOAc, 4:1) to afford 500 mg of 2.7 g of 5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridine as a solid. 1H NMR: (CDCl3) 8.97 (s, 1H), 7.41-7.52 (m, 6H), 7.28 (t, 1H), 7.15 (d, 2H), 6.68 (d, 1H), 3.03 (m, 1H), 2.36 (m, 4H), 1.34 (d, 6H), 1.01 (t, 6H).

reactant | 5-(2,6-diethyl-phenyl)-1H-pyrrolo[2,3-c]pyridine | 2.8 mmol, 700 mg | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)NC=C2 | C17H18N2
reactant | 1-iodo-4-isopropyl-benzene | 8.1 mmol, 2.0 g | IC1=CC=C(C=C1)C(C)C | C9H11I
reactant | cesium carbonate | 5.5 mmol, 1.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethylenediamine | 5.6 mmol, 336 mg | C(CN)N | C2H8N2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | CuI | 5.3 mmol, 1.0 g | [Cu]I
product | 5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridine | 500 mg | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)N(C=C2)C2=CC=C(C=C2)C(C)C | C26H28N2
